US08471005B2
Combined 2-Bromo-1-(4-nitro-phenyl)-ethanone (5.0 g, 0.020 mol) with Methylene chloride (100 mL, 2 mol) and treated with 2-Ethylamino-ethanol (2.0 mL, 0.020 mol) and N,N-Diisopropylethylamine (3.6 mL, 0.021 mol), stirred at rt, 3 h. Treated the mixture with Triethylsilane (10.33 mL, 0.06468 mol) and then Trifluoroacetic Acid (52.5 mL, 0.681 mol) and heated to 40° C. and stirred under nitrogen overnight. Concentrated and partitioned between ice/water and heptane, stirred vigorously for 10 min. Decanted off the heptane to remove silyl byproducts, repeated. Basified with solid K2CO3. Extracted with EtOAc, the organics were washed with brine, dried (MgSO4), filtered and concentrated onto Celite and purified by ISCO chromatography (80 g, SiO2, gradient elution: 100% Hex to 100% EtOAc to 10% MeOH/EtOac), (+/−)-4-Ethyl-2-(4-nitro-phenyl)-morpholine was isolated as red waxy solid (2.45 grams). 1H-NMR (CDCl3) δ 8.22 (d, J=8.8 Hz, 2H), 7.76 (d, J=8.8 Hz, 2H), 4.69 (dd, J=10.5, 2.3 Hz, 1H), 4.10 (dd, J=11.5, 2.0, 1H), 3.90-3.84 (m, 1H), 4.11-4.08 (m, 1H), 3.00 (d, J=11.5 Hz, 1H), 2.87 (d, J=9.9 Hz, 1H), 2.48 (dd, J=7.2, 14.4 Hz, 2H), 2.27-2.20 (m, 1H), 1.99 (t, J=10.7 Hz, 1H), 1.13 (t, J=7.2 Hz, 3H); LC/MS (ESI+): 237 (M+H).

reactant | 2-Bromo-1-(4-nitro-phenyl)-ethanone | 0.020 mol, 5.0 g | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | Methylene chloride | 2 mol, 100 mL | C(Cl)Cl | CH2Cl2
reactant | 2-Ethylamino-ethanol | 0.020 mol, 2.0 mL | C(C)NCCO | C4H11NO
reactant | N,N-Diisopropylethylamine | 0.021 mol, 3.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Triethylsilane | 0.06468 mol, 10.33 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | Trifluoroacetic Acid | 0.681 mol, 52.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (+/−)-4-Ethyl-2-(4-nitro-phenyl)-morpholine | C(C)N1CC(OCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H16N2O3
